US08859541B2
E1b) tert-butyl-N-methyl-N-[1-oxo-1-[[5-pyrimidin-5-yl-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]amino]propan-2-yl]carbamate
A mixture of tert-butyl-N-[1-[[5-bromo-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]-amino]-1-oxopropan-2-yl]-N-methylcarbamate C1a (3.5 g, 6.5 mmol), pyrimidin-5-ylboronic acid (1.0 g, 7.8 mmol), Na2CO3 (1.4 g, 13.2 mmol), Dichlorobis(triphenylphosphine)palladium(II) (450 mg, 0.64 mmol), dioxane (20 ml), MeOH (5 ml) and water (3.5 ml) is stirred under argon atmosphere for 17 h at 80° C. The mixture is diluted with water and extracted with DCM. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 2.33 g (67%). HPLC-MS: M+H=538; tR=2.26 min (*Method—4).

reactant | tert-butyl-N-[1-[[5-bromo-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]-amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)Br)C#C[Si](C(C)C)(C(C)C)C(C)C)C)=O | C25H40BrN3O3Si
reactant | pyrimidin-5-ylboronic acid | 7.8 mmol, 1.0 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | Na2CO3 | 13.2 mmol, 1.4 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.64 mmol, 450 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 3.5 ml | O | H2O
solvent | MeOH | 5 ml | CO | CH4O
product | tert-butyl-N-methyl-N-[1-oxo-1-[[5-pyrimidin-5-yl-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]amino]propan-2-yl]carbamate | C(C)(C)(C)OC(N(C(C(NC1=NC(=C(C=C1)C=1C=NC=NC1)C#C[Si](C(C)C)(C(C)C)C(C)C)=O)C)C)=O | C29H43N5O3Si
